US05389641
28a) 2-Amino-5-methylbenzamide
To a stirred solution of 5-methyl-2-nitrobenzoic acid (25.4 g) in THF (150 ml) was added oxalyl chloride (13.5 ml) and DMF (0.1 ml) dropwise and the mixture was stirred at room temperature for 14 hours and concentrated to dryness. To an ice-cooled, stirred 25% aqueous solution of ammonia (150 ml) was added the resulting acid chloride dropwise and the mixture was stirred at the same temperature for 1 hour. The white precipitates were collected by filtration, washed with water, and dried in vacuo. A suspension of the white precipitates and 10% Pd/C (2.4 g) in a mixture of THF (200 ml) and methanol (150 ml) was stirred under hydrogen atmosphere at room temperature for 4 hours. After removal of insoluble materials by filtration, the filtrate was concentrated to dryness. Recrystallization of the resultant crystalline residue from ethyl acetate-hexane afforded colorless crystals (18.7 g, 89%), m.p. 178°-180° C.

reactant | 5-methyl-2-nitrobenzoic acid | 25.4 g | CC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO4
reactant | oxalyl chloride | 13.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-Amino-5-methylbenzamide | NC1=C(C(=O)N)C=C(C=C1)C | C8H10N2O
